US08476261B2
47A) Preparation of ethyl (1-hydroxycyclobutyl)-acetate
Trimethylchlorosilane (1.14 mL, 8.92 mmol) was added by syringe to a suspension of zinc powder (7.97 g, 0.122 mol) in absolute Et2O (200 mL). The mixture was stirred for 15 minutes at room temperature. The mixture was then heated to reflux, the heat source was removed, and ethyl bromoacetate (10.3 mL, 92.9 mmol) was added at such a rate that the ether solution gently boiled. The mixture was refluxed one hour then stirred for an additional hour at room temperature. A solution of cyclopentanone (6.00 g, 75.9 mmol) in ether (30 mL) was added while the temperature of the mixture was maintained at 19-20° C. by intermittent cooling. After being one hour of stirring at room temperature, the mixture was poured into iced 25% ammonia (400 mL). The aqueous phase was extracted with ether and the combined phases were dried over K2CO3. Filtration and evaporation of the solvent yielded the title compound as a colorless oil (6.50 g, 54%). 1H-NMR (400 MHz, CDCl3) δ 1.29 (3H, t, J=7.3 Hz), 1.47-1.64 (1H, m), 1.76-1.87 (1H, m), 1.93-2.06 (2H, m), 2.12-2.22 (2H, m), 2.67 (2H, s), 3.70 (1H, s), 4.19 (2H, q, J=7.3 Hz).

reactant | Trimethylchlorosilane | 8.92 mmol, 1.14 mL | C[Si](Cl)(C)C | C3H9ClSi
reactant | ethyl bromoacetate | 92.9 mmol, 10.3 mL | BrCC(=O)OCC | C4H7BrO2
reactant | cyclopentanone | 75.9 mmol, 6.00 g | C1(CCCC1)=O | C5H8O
reactant | ammonia | 400 mL | N | H3N
solvent | Et2O | 200 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
catalyst | zinc | 0.122 mol, 7.97 g | [Zn] | Zn
product | ethyl (1-hydroxycyclobutyl)-acetate | 6.50 g, 54% | OC1(CCC1)CC(=O)OCC | C8H14O3
